US07781441B2
c) (4-Methyl-3,4-dihydro-quinazolin-2-yl)-(2-phenoxy-ethyl)-amine hydroiodide
2-Phenoxyethylamine (26 mg, 0.19 mmol) was added to a solution of 4-methyl-2-methylsulfanyl-3,4-dihydro-quinazoline hydroiodide (50 mg, 0.16 mmol) in acetonitrile (1 ml), and the mixture was heated overnight (80° C.) in a screw-capped vial. The solvent was then evaporated and the mixture was suspended in diethyl ether. The title compound (52 mg, 62%) was obtained from this mixture by filtration.

reactant | 2-Phenoxyethylamine | 0.19 mmol, 26 mg | O(C1=CC=CC=C1)CCN | C8H11NO
reactant | 4-methyl-2-methylsulfanyl-3,4-dihydro-quinazoline hydroiodide | 0.16 mmol, 50 mg | I.CC1NC(=NC2=CC=CC=C12)SC
solvent | acetonitrile | 1 ml | C(C)#N | C2H3N
product | (4-Methyl-3,4-dihydro-quinazolin-2-yl)-(2-phenoxy-ethyl)-amine hydroiodide | 52 mg, 62% | I.CC1NC(=NC2=CC=CC=C12)NCCOC1=CC=CC=C1 | InChI=1S/C17H19N3O.HI/c1-13-15-9-5-6-10-16(15)20-17(19-13)18-11-12-21-14-7-3-2-4-8-14;/h2-10,13H,11-12H2,1H3,(H2,18,19,20);1H
